US04463172
A 22.8 ml portion of 2N HCl was added to a solution of 30 g of diphenylmethyl 7-(2-thienylacetamido)-2-methyl-3-formyloxymethylceph-2-em-4-carboxylate in 100 ml of DMF, and the mixture was stirred at room temperature for 20 hours. AcOEt and H2O were added to the reaction solution to separate out the AcOEt layer. The AcOEt layer was washed with 5% aqueous NaHCO3 solution and with saturated aqueous NaCl solution, and dried over Na2SO4, followed by distilling off the AcOEt under reduced pressure. The residue was added on a column of silica gel and washed with CH2Cl2.AcOEt (10:1). Then, the fractions eluted with acetone were collected, and the solvent was distilled off under reduced pressure, resulting 14.6 g (62%) of diphenylmethyl 7-(2-thienylacetamido)-2-methyl-3-hydroxymethylceph-2-em-4-carboxylate.

reactant | HCl | 2N | Cl | ClH
reactant | diphenylmethyl 7-(2-thienylacetamido)-2-methyl-3-formyloxymethylceph-2-em-4-carboxylate | 30 g | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=C(S2)C)COC=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H26N2O6S2
reactant | AcOEt | CCOC(=O)C | C4H8O2
reactant | H2O | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | diphenylmethyl 7-(2-thienylacetamido)-2-methyl-3-hydroxymethylceph-2-em-4-carboxylate | 14.6 g, 62% | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=C(S2)C)CO)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H26N2O5S2
